US08466290B2
N-[5-(2-tetrahydrofuryl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide (compound Ia-132)
The title compound was synthesized according to the synthesis method of the compound Ia-122 using 4-(2-phenyl-4-quinolinecarbonyl)-1-(2-tetrahydrofurancarbonyl)thiosemicarbazide described in Reference Example 38 instead of 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide.

reactant | 4-(2-phenyl-4-quinolinecarbonyl)-1-(2-tetrahydrofurancarbonyl)thiosemicarbazide | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)NC(NNC(=O)C1OCCC1)=S | C22H20N4O3S
reactant | 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)NC(NNC(=O)C=1SC=CC1)=S)OC(F)(F)F | C23H15F3N4O3S2
product | N-[5-(2-tetrahydrofuryl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide | O1C(CCC1)C1=NN=C(O1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C22H18N4O3
